Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:4]([H:5])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.44197586211
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-2.0012853451900003
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.42720159752
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.89541650858
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3].[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],2.48367278474
[H:1][C:2]([O:3][C:4]([H:5])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.60359018601
[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.23674110809
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],4.59391564182
[H:1][O:2][C:3][O:11][C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]1,-3.26098460453
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.08568981751
[O:1]=[C:2]([C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2](#[C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1],3.70408681866
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[O:12][H:13],1.25305202136
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([C:4]#[C:5][C:6][C:7]([H:8])[H:9])[H:10],3.62786670069
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],1.706859101
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8].[O:9][H:10],3.61712422114
[O:1]=[C:2]([C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:3][H:4].[O:1]=[C:2]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],5.35263801205
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],3.920423435380002
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4],1.5967368634
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.79935949448
[H:1][C:2]#[C:3][C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11],-1.72547092062
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.14286843388
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],3.82160512847
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9],3.90671229976
[H:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.4917561794999998
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],2.01063846884
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[O:2],1.48374872
[C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8],-4.81392556727
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1],4.82568849491
